US05389614
10b. Benzyl (5-(4-Cyanobenzylidene)-2,4-dioxoimidazolidin-3-yl)-acetate
6.4 g (0.03 mol) of (5-(4-cyanobenzylidene)-2,4-dioxoimidazolidine and 3.5 g (0.031 mol) of potassium tert-butylate are dissolved in 30 ml of dimethylformamide. After addition of 7.1 g (0.031 mol) of benzyl bromoacetate, the mixture is stirred at room temperature for 7 hours, heated briefly to 100° C. and concentrated. Water is added to the residue, and the mixture is extracted with ethyl acetate. The product crystallises out of the ethyl acetate phase, or can be precipitated by addition of heptane.

reactant | 5-(4-cyanobenzylidene)-2,4-dioxoimidazolidine | C(#N)C1=CC=C(C=C2C(NC(N2)=O)=O)C=C1 | C11H7N3O2
reactant | potassium tert-butylate | 0.031 mol, 3.5 g | CC(C)(C)[O-].[K+]
reactant | benzyl bromoacetate | 0.031 mol, 7.1 g | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | Benzyl (5-(4-Cyanobenzylidene)-2,4-dioxoimidazolidin-3-yl)-acetate | C(#N)C1=CC=C(C=C2C(N(C(N2)=O)CC(=O)OCC2=CC=CC=C2)=O)C=C1 | C20H15N3O4
